US05366991
Preparation of N-[4-(2-trifluoromethoxy-1,1,2-trifluoroethoxy) benzyl]-4-chloro-3-ethyl-1-methylpyrazole-5-carboxamide (Compound No. 3)
A mixture consisting of 4 ml of methylene chloride, 0.22 ml of triethylamine and 450 mg of 4-((2-trifluoromethoxy-1,1,2-trifluoroethoxy)-benzylamine (1.56 moles) is slowly added dropwise to a solution of 332 mg (1.6 mmoles) of 4-chloro-3-ethyl-1-methyl-5-pyrazolecarboxylic acid chloride in 6 ml of methylene chloride. The solution obtained is maintained under agitation at ambient temperature for 4 hours.

reactant | triethylamine | 0.22 ml | C(C)N(CC)CC | C6H15N
reactant | (2-trifluoromethoxy-1,1,2-trifluoroethoxy)-benzylamine | 1.56 moles | FC(OC(C(ONCC1=CC=CC=C1)(F)F)F)(F)F | C10H9F6NO2
reactant | 4-chloro-3-ethyl-1-methyl-5-pyrazolecarboxylic acid chloride | 1.6 mmoles, 332 mg | ClC=1C(=NN(C1C(=O)Cl)C)CC | C7H8Cl2N2O
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | N-[4-(2-trifluoromethoxy-1,1,2-trifluoroethoxy) benzyl]-4-chloro-3-ethyl-1-methylpyrazole-5-carboxamide | FC(OC(C(OC1=CC=C(CNC(=O)C2=C(C(=NN2C)CC)Cl)C=C1)(F)F)F)(F)F | C17H16ClF6N3O3
